US05025031
Sulfamic acid 4-phenyl-1,2,5-thiadiazol-3-yl ester.
A slurry of 3-hydroxy-4-phenyl-1,2,5-thiadiazole (15.0 g, 0.084 mole) in acetonitrile (100 ml) was treated by the simultaneous dropwise addition of a sulfamoyl chloride solution in acetonitrile (0.20 mole, 66 ml of 3M) and a diisopropylethylamine solution (0.22 mole in enough 1:1 acetonitrile/methylene chloride to make 66 ml). High Pressure Liquid Chromatography analysis indicated a maximum of 85% conversion of starting material to product. The reaction was worked up by concentration of the reaction mixture and partitioning the residue between ethyl ether and water. Concentration of the ether fraction gave a white paste from which desired product was separated by dissolving in a small amount of acetonitrile. The product was crystallized from the acetonitrile to give 2.8 g (13%) of the title compound as a white powder, mp 128°-130° C.

reactant | 3-hydroxy-4-phenyl-1,2,5-thiadiazole | 0.084 mole, 15.0 g | OC1=NSN=C1C1=CC=CC=C1 | C8H6N2OS
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | diisopropylethylamine | 0.22 mole, 66 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.20 mole, 3M, 66 ml | C(C)#N | C2H3N
product | Sulfamic acid 4-phenyl-1,2,5-thiadiazol-3-yl ester | C1(=CC=CC=C1)C=1C(=NSN1)OS(N)(=O)=O | C8H7N3O3S2
